* PEX produced using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=0 mOhm, minres=1 mOhm, mindelay=0 ps)
* NGSPICE file created from cml_data_restorer_2p5_pex.ext - technology: gf180mcuD

.subckt cml_data_restorer_2p5_pex IN_P IN_N VBIAS VDD VSS OUT_P OUT_N
X0 VDD.t1 a_600_2738.t0 VSS.t4 ppolyf_u r_width=2u r_length=3.6u
X1 OUT_P.t2 a_n1000_2738.t3 a_n852_8800.t2 VSS.t3 nfet_03v3 ad=4.4p pd=20.88u as=2.6p ps=10.52u w=10u l=0.28u
X2 VSS.t14 VBIAS.t5 a_n852_8800.t6 VSS.t13 nfet_03v3 ad=3.12p pd=12.52u as=3.12p ps=12.52u w=12u l=0.28u
X3 a_n852_8800.t7 VBIAS.t4 VSS.t12 VSS.t11 nfet_03v3 ad=5.28p pd=24.88u as=3.12p ps=12.52u w=12u l=0.28u
X4 VDD.t0 OUT_P.t1 VSS.t2 ppolyf_u r_width=2u r_length=3.6u
X5 a_n852_8800.t3 a_600_2738.t4 OUT_N.t1 VSS.t5 nfet_03v3 ad=2.6p pd=10.52u as=4.4p ps=20.88u w=10u l=0.28u
X6 VSS.t8 VBIAS.t7 a_n852_8800.t4 VSS.t6 nfet_03v3 ad=3.12p pd=12.52u as=5.28p ps=24.88u w=12u l=0.28u
X7 VDD.t2 a_n1000_2738.t0 VSS.t2 ppolyf_u r_width=2u r_length=3.6u
X8 VSS.t15 VBIAS.t1 a_n852_n600.t6 VSS.t13 nfet_03v3 ad=3.12p pd=12.52u as=3.12p ps=12.52u w=12u l=0.28u
X9 a_n852_8800.t5 VBIAS.t6 VSS.t10 VSS.t9 nfet_03v3 ad=3.12p pd=12.52u as=3.12p ps=12.52u w=12u l=0.28u
X10 VDD.t3 OUT_N.t2 VSS.t4 ppolyf_u r_width=2u r_length=3.6u
X11 a_n852_n600.t3 IN_P.t1 a_n1000_2738.t1 VSS.t0 nfet_03v3 ad=2.6p pd=10.52u as=4.4p ps=20.88u w=10u l=0.28u
X12 a_600_2738.t2 IN_N.t0 a_n852_n600.t1 VSS.t1 nfet_03v3 ad=4.4p pd=20.88u as=2.6p ps=10.52u w=10u l=0.28u
X13 a_n852_n600.t5 VBIAS.t2 VSS.t16 VSS.t9 nfet_03v3 ad=3.12p pd=12.52u as=3.12p ps=12.52u w=12u l=0.28u
X14 a_n1000_2738.t2 IN_P.t0 a_n852_n600.t2 VSS.t3 nfet_03v3 ad=4.4p pd=20.88u as=2.6p ps=10.52u w=10u l=0.28u
X15 a_n852_n600.t7 VBIAS.t0 VSS.t17 VSS.t11 nfet_03v3 ad=5.28p pd=24.88u as=3.12p ps=12.52u w=12u l=0.28u
X16 a_n852_8800.t0 a_n1000_2738.t4 OUT_P.t0 VSS.t0 nfet_03v3 ad=2.6p pd=10.52u as=4.4p ps=20.88u w=10u l=0.28u
X17 a_n852_n600.t0 IN_N.t1 a_600_2738.t1 VSS.t5 nfet_03v3 ad=2.6p pd=10.52u as=4.4p ps=20.88u w=10u l=0.28u
X18 OUT_N.t0 a_600_2738.t3 a_n852_8800.t1 VSS.t1 nfet_03v3 ad=4.4p pd=20.88u as=2.6p ps=10.52u w=10u l=0.28u
X19 VSS.t7 VBIAS.t3 a_n852_n600.t4 VSS.t6 nfet_03v3 ad=3.12p pd=12.52u as=5.28p ps=24.88u w=12u l=0.28u
R0 IN_N.n0 IN_N.t1 139.689
R1 IN_N.n0 IN_N.t0 139.689
R2 IN_N IN_N.n0 25.9192
R3 IN_P.n0 IN_P.t1 139.689
R4 IN_P.n0 IN_P.t0 139.689
R5 IN_P IN_P.n0 25.9192
R6 VBIAS.n8 VBIAS.t3 165.774
R7 VBIAS.n5 VBIAS.t0 165.774
R8 VBIAS.n0 VBIAS.t4 165.774
R9 VBIAS.n3 VBIAS.t7 165.774
R10 VBIAS.n6 VBIAS.t1 161.317
R11 VBIAS.n7 VBIAS.t2 161.317
R12 VBIAS.n1 VBIAS.t5 161.317
R13 VBIAS.n2 VBIAS.t6 161.317
R14 VBIAS.n10 VBIAS.n4 19.0663
R15 VBIAS.n10 VBIAS.n9 13.5005
R16 VBIAS.n7 VBIAS.n6 11.6805
R17 VBIAS.n2 VBIAS.n1 11.6805
R18 VBIAS.n9 VBIAS.n5 7.10487
R19 VBIAS.n9 VBIAS.n8 7.10487
R20 VBIAS.n4 VBIAS.n0 7.10487
R21 VBIAS.n4 VBIAS.n3 7.10487
R22 VBIAS.n6 VBIAS.n5 4.42851
R23 VBIAS.n8 VBIAS.n7 4.42851
R24 VBIAS.n1 VBIAS.n0 4.42851
R25 VBIAS.n3 VBIAS.n2 4.42851
R26 VBIAS VBIAS.n10 0.272868
R27 OUT_N OUT_N.t2 12.675
R28 OUT_N.n0 OUT_N.t0 6.0613
R29 OUT_N.n0 OUT_N.t1 6.0613
R30 OUT_N OUT_N.n0 2.70032
R31 OUT_P OUT_P.t1 12.675
R32 OUT_P.n0 OUT_P.t2 6.0613
R33 OUT_P.n0 OUT_P.t0 6.0613
R34 OUT_P OUT_P.n0 2.70032
R35 VDD.n1 VDD.t0 21.9306
R36 VDD.n0 VDD.t2 21.9306
R37 VDD.n1 VDD.t3 21.575
R38 VDD.n0 VDD.t1 21.575
R39 VDD VDD.n0 2.30717
R40 VDD VDD.n1 0.218278
R41 VSS.n129 VSS.n27 160.754
R42 VSS.n153 VSS.n5 139.786
R43 VSS.n56 VSS.n27 112.528
R44 VSS.n153 VSS.n152 90.8607
R45 VSS.n130 VSS.n22 59.5005
R46 VSS.n60 VSS.n59 59.5005
R47 VSS.n142 VSS.n141 52.5005
R48 VSS.n146 VSS.n145 52.5005
R49 VSS.n150 VSS.n17 52.5005
R50 VSS.n130 VSS.n21 52.5005
R51 VSS.n44 VSS.n29 52.5005
R52 VSS.n47 VSS.n29 52.5005
R53 VSS.n51 VSS.n50 52.5005
R54 VSS.n117 VSS.n116 52.5005
R55 VSS.n121 VSS.n120 52.5005
R56 VSS.n123 VSS.n31 52.5005
R57 VSS.n103 VSS.n102 52.5005
R58 VSS.n99 VSS.n98 52.5005
R59 VSS.n95 VSS.n94 52.5005
R60 VSS.t0 VSS.n40 48.2263
R61 VSS.t5 VSS.n74 48.2263
R62 VSS.n40 VSS.n5 42.6349
R63 VSS.n154 VSS.n4 42.0005
R64 VSS.n55 VSS.n54 42.0005
R65 VSS.n105 VSS.n7 42.0005
R66 VSS.n127 VSS.n32 42.0005
R67 VSS.t6 VSS.n37 35.6457
R68 VSS.n74 VSS.t11 35.6457
R69 VSS.n154 VSS.n3 35.0005
R70 VSS.n39 VSS.n3 35.0005
R71 VSS.n72 VSS.n39 35.0005
R72 VSS.n72 VSS.n58 35.0005
R73 VSS.n58 VSS.n22 35.0005
R74 VSS.n42 VSS.n8 35.0005
R75 VSS.n85 VSS.n42 35.0005
R76 VSS.n85 VSS.n41 35.0005
R77 VSS.n79 VSS.n41 35.0005
R78 VSS.n79 VSS.n55 35.0005
R79 VSS.n64 VSS.n7 35.0005
R80 VSS.n64 VSS.n38 35.0005
R81 VSS.n68 VSS.n38 35.0005
R82 VSS.n68 VSS.n57 35.0005
R83 VSS.n60 VSS.n57 35.0005
R84 VSS.n88 VSS.n6 35.0005
R85 VSS.n88 VSS.n87 35.0005
R86 VSS.n87 VSS.n36 35.0005
R87 VSS.n77 VSS.n36 35.0005
R88 VSS.n77 VSS.n32 35.0005
R89 VSS.t9 VSS.t6 27.9575
R90 VSS.t13 VSS.t9 27.9575
R91 VSS.n86 VSS.n37 27.2586
R92 VSS.n78 VSS.n56 27.2586
R93 VSS.n16 VSS.n8 24.5005
R94 VSS.n91 VSS.n6 24.5005
R95 VSS.n86 VSS.t3 20.9682
R96 VSS.n73 VSS.t13 20.9682
R97 VSS.n78 VSS.t1 20.9682
R98 VSS VSS.n0 19.2672
R99 VSS VSS.n156 18.8227
R100 VSS.t2 VSS.t0 13.979
R101 VSS.t3 VSS.t2 13.979
R102 VSS.t4 VSS.t5 13.979
R103 VSS.t1 VSS.t4 13.979
R104 VSS.n139 VSS.n138 10.2705
R105 VSS.n114 VSS.n113 10.2705
R106 VSS.n108 VSS.n107 10.2705
R107 VSS.n133 VSS.n132 10.2705
R108 VSS.t11 VSS.n73 6.98975
R109 VSS.n112 VSS.n109 6.5388
R110 VSS.n111 VSS.n110 6.5388
R111 VSS.n135 VSS.n134 6.5388
R112 VSS.n137 VSS.n136 6.5388
R113 VSS.n18 VSS.n16 5.2005
R114 VSS.n150 VSS.n149 5.2005
R115 VSS.n148 VSS.n17 5.2005
R116 VSS.n147 VSS.n146 5.2005
R117 VSS.n145 VSS.n144 5.2005
R118 VSS.n143 VSS.n142 5.2005
R119 VSS.n141 VSS.n140 5.2005
R120 VSS.n4 VSS.n1 5.2005
R121 VSS.n55 VSS.n27 5.2005
R122 VSS.n55 VSS.n43 5.2005
R123 VSS.n79 VSS.n78 5.2005
R124 VSS.n80 VSS.n79 5.2005
R125 VSS.n73 VSS.n41 5.2005
R126 VSS.n81 VSS.n41 5.2005
R127 VSS.n86 VSS.n85 5.2005
R128 VSS.n85 VSS.n84 5.2005
R129 VSS.n42 VSS.n5 5.2005
R130 VSS.n83 VSS.n42 5.2005
R131 VSS.n153 VSS.n8 5.2005
R132 VSS.n82 VSS.n8 5.2005
R133 VSS.n130 VSS.n129 5.2005
R134 VSS.n131 VSS.n130 5.2005
R135 VSS.n21 VSS.n19 5.2005
R136 VSS.n45 VSS.n44 5.2005
R137 VSS.n129 VSS.n29 5.2005
R138 VSS.n46 VSS.n29 5.2005
R139 VSS.n48 VSS.n47 5.2005
R140 VSS.n50 VSS.n49 5.2005
R141 VSS.n52 VSS.n51 5.2005
R142 VSS.n54 VSS.n53 5.2005
R143 VSS.n27 VSS.n22 5.2005
R144 VSS.n22 VSS.n20 5.2005
R145 VSS.n78 VSS.n58 5.2005
R146 VSS.n69 VSS.n58 5.2005
R147 VSS.n73 VSS.n72 5.2005
R148 VSS.n72 VSS.n71 5.2005
R149 VSS.n86 VSS.n39 5.2005
R150 VSS.n70 VSS.n39 5.2005
R151 VSS.n5 VSS.n3 5.2005
R152 VSS.n3 VSS.n2 5.2005
R153 VSS.n154 VSS.n153 5.2005
R154 VSS.n155 VSS.n154 5.2005
R155 VSS.n153 VSS.n6 5.2005
R156 VSS.n90 VSS.n6 5.2005
R157 VSS.n88 VSS.n5 5.2005
R158 VSS.n89 VSS.n88 5.2005
R159 VSS.n87 VSS.n86 5.2005
R160 VSS.n87 VSS.n35 5.2005
R161 VSS.n73 VSS.n36 5.2005
R162 VSS.n75 VSS.n36 5.2005
R163 VSS.n78 VSS.n77 5.2005
R164 VSS.n77 VSS.n76 5.2005
R165 VSS.n32 VSS.n27 5.2005
R166 VSS.n33 VSS.n32 5.2005
R167 VSS.n60 VSS.n27 5.2005
R168 VSS.n61 VSS.n60 5.2005
R169 VSS.n78 VSS.n57 5.2005
R170 VSS.n62 VSS.n57 5.2005
R171 VSS.n73 VSS.n68 5.2005
R172 VSS.n68 VSS.n67 5.2005
R173 VSS.n86 VSS.n38 5.2005
R174 VSS.n66 VSS.n38 5.2005
R175 VSS.n64 VSS.n5 5.2005
R176 VSS.n65 VSS.n64 5.2005
R177 VSS.n153 VSS.n7 5.2005
R178 VSS.n63 VSS.n7 5.2005
R179 VSS.n92 VSS.n91 5.2005
R180 VSS.n94 VSS.n93 5.2005
R181 VSS.n96 VSS.n95 5.2005
R182 VSS.n98 VSS.n97 5.2005
R183 VSS.n100 VSS.n99 5.2005
R184 VSS.n102 VSS.n101 5.2005
R185 VSS.n104 VSS.n103 5.2005
R186 VSS.n106 VSS.n105 5.2005
R187 VSS.n59 VSS.n34 5.2005
R188 VSS.n116 VSS.n115 5.2005
R189 VSS.n118 VSS.n117 5.2005
R190 VSS.n120 VSS.n119 5.2005
R191 VSS.n122 VSS.n121 5.2005
R192 VSS.n124 VSS.n123 5.2005
R193 VSS.n125 VSS.n31 5.2005
R194 VSS.n127 VSS.n126 5.2005
R195 VSS.n111 VSS.n108 4.5005
R196 VSS.n113 VSS.n112 4.5005
R197 VSS.n138 VSS.n137 4.5005
R198 VSS.n135 VSS.n133 4.5005
R199 VSS.n151 VSS.n150 4.34122
R200 VSS.n146 VSS.n15 4.34122
R201 VSS.n142 VSS.n14 4.34122
R202 VSS.n141 VSS.n13 4.34122
R203 VSS.n44 VSS.n28 4.34122
R204 VSS.n50 VSS.n26 4.34122
R205 VSS.n54 VSS.n25 4.34122
R206 VSS.n13 VSS.n4 4.34122
R207 VSS.n145 VSS.n14 4.34122
R208 VSS.n17 VSS.n15 4.34122
R209 VSS.n151 VSS.n16 4.34122
R210 VSS.n28 VSS.n21 4.34122
R211 VSS.n47 VSS.n26 4.34122
R212 VSS.n51 VSS.n25 4.34122
R213 VSS.n91 VSS.n9 4.34122
R214 VSS.n95 VSS.n10 4.34122
R215 VSS.n99 VSS.n11 4.34122
R216 VSS.n103 VSS.n12 4.34122
R217 VSS.n116 VSS.n24 4.34122
R218 VSS.n120 VSS.n23 4.34122
R219 VSS.n121 VSS.n30 4.34122
R220 VSS.n128 VSS.n31 4.34122
R221 VSS.n59 VSS.n24 4.34122
R222 VSS.n117 VSS.n23 4.34122
R223 VSS.n123 VSS.n30 4.34122
R224 VSS.n128 VSS.n127 4.34122
R225 VSS.n105 VSS.n12 4.34122
R226 VSS.n102 VSS.n11 4.34122
R227 VSS.n98 VSS.n10 4.34122
R228 VSS.n94 VSS.n9 4.34122
R229 VSS.n74 VSS.n56 1.8344
R230 VSS.n40 VSS.n37 1.8344
R231 VSS.n131 VSS.n20 0.7655
R232 VSS.n61 VSS.n34 0.7655
R233 VSS.n143 VSS.n140 0.6755
R234 VSS.n144 VSS.n143 0.6755
R235 VSS.n147 VSS.n144 0.6755
R236 VSS.n148 VSS.n147 0.6755
R237 VSS.n149 VSS.n148 0.6755
R238 VSS.n149 VSS.n18 0.6755
R239 VSS.n45 VSS.n19 0.6755
R240 VSS.n46 VSS.n45 0.6755
R241 VSS.n48 VSS.n46 0.6755
R242 VSS.n49 VSS.n48 0.6755
R243 VSS.n52 VSS.n49 0.6755
R244 VSS.n53 VSS.n52 0.6755
R245 VSS.n118 VSS.n115 0.6755
R246 VSS.n119 VSS.n118 0.6755
R247 VSS.n122 VSS.n119 0.6755
R248 VSS.n124 VSS.n122 0.6755
R249 VSS.n125 VSS.n124 0.6755
R250 VSS.n126 VSS.n125 0.6755
R251 VSS.n104 VSS.n101 0.6755
R252 VSS.n101 VSS.n100 0.6755
R253 VSS.n100 VSS.n97 0.6755
R254 VSS.n97 VSS.n96 0.6755
R255 VSS.n96 VSS.n93 0.6755
R256 VSS.n93 VSS.n92 0.6755
R257 VSS.n53 VSS.n43 0.5405
R258 VSS.n126 VSS.n33 0.5405
R259 VSS.n83 VSS.n82 0.4505
R260 VSS.n84 VSS.n83 0.4505
R261 VSS.n84 VSS.n81 0.4505
R262 VSS.n81 VSS.n80 0.4505
R263 VSS.n80 VSS.n43 0.4505
R264 VSS.n155 VSS.n2 0.4505
R265 VSS.n70 VSS.n2 0.4505
R266 VSS.n71 VSS.n70 0.4505
R267 VSS.n71 VSS.n69 0.4505
R268 VSS.n69 VSS.n20 0.4505
R269 VSS.n65 VSS.n63 0.4505
R270 VSS.n66 VSS.n65 0.4505
R271 VSS.n67 VSS.n66 0.4505
R272 VSS.n67 VSS.n62 0.4505
R273 VSS.n62 VSS.n61 0.4505
R274 VSS.n90 VSS.n89 0.4505
R275 VSS.n89 VSS.n35 0.4505
R276 VSS.n75 VSS.n35 0.4505
R277 VSS.n76 VSS.n75 0.4505
R278 VSS.n76 VSS.n33 0.4505
R279 VSS.n152 VSS.n151 0.430889
R280 VSS.n152 VSS.n15 0.430889
R281 VSS.n152 VSS.n14 0.430889
R282 VSS.n152 VSS.n13 0.430889
R283 VSS.n129 VSS.n28 0.430889
R284 VSS.n129 VSS.n26 0.430889
R285 VSS.n129 VSS.n25 0.430889
R286 VSS.n152 VSS.n9 0.430889
R287 VSS.n152 VSS.n10 0.430889
R288 VSS.n152 VSS.n11 0.430889
R289 VSS.n152 VSS.n12 0.430889
R290 VSS.n129 VSS.n24 0.430889
R291 VSS.n129 VSS.n23 0.430889
R292 VSS.n129 VSS.n30 0.430889
R293 VSS.n129 VSS.n128 0.430889
R294 VSS.n156 VSS.n155 0.37175
R295 VSS.n63 VSS.n0 0.37175
R296 VSS.n139 VSS.n1 0.366125
R297 VSS.n132 VSS.n131 0.366125
R298 VSS.n114 VSS.n34 0.366125
R299 VSS.n107 VSS.n106 0.366125
R300 VSS.n82 VSS.n18 0.3155
R301 VSS.n92 VSS.n90 0.3155
R302 VSS.n140 VSS.n139 0.309875
R303 VSS.n132 VSS.n19 0.309875
R304 VSS.n115 VSS.n114 0.309875
R305 VSS.n107 VSS.n104 0.309875
R306 VSS.n112 VSS.n111 0.189974
R307 VSS.n137 VSS.n135 0.189974
R308 VSS.n156 VSS.n1 0.16925
R309 VSS.n106 VSS.n0 0.16925
R310 VSS.n113 VSS.n108 0.1605
R311 VSS.n138 VSS.n133 0.1605
R312 VSS.n109 VSS.t14 0.137
R313 VSS.n109 VSS.t12 0.137
R314 VSS.n110 VSS.t8 0.137
R315 VSS.n110 VSS.t10 0.137
R316 VSS.n134 VSS.t15 0.137
R317 VSS.n134 VSS.t17 0.137
R318 VSS.n136 VSS.t7 0.137
R319 VSS.n136 VSS.t16 0.137
R320 a_n852_n600.n3 a_n852_n600.n1 10.7042
R321 a_n852_n600.n3 a_n852_n600.n2 10.7042
R322 a_n852_n600.n0 a_n852_n600.t7 6.77
R323 a_n852_n600.n5 a_n852_n600.t4 6.6753
R324 a_n852_n600.n7 a_n852_n600.n6 6.5388
R325 a_n852_n600.n5 a_n852_n600.n4 4.63668
R326 a_n852_n600.n4 a_n852_n600.n0 2.23814
R327 a_n852_n600.n4 a_n852_n600.n3 0.5055
R328 a_n852_n600.n6 a_n852_n600.n5 0.189974
R329 a_n852_n600.n1 a_n852_n600.t0 0.1643
R330 a_n852_n600.n1 a_n852_n600.t1 0.1643
R331 a_n852_n600.n2 a_n852_n600.t3 0.1643
R332 a_n852_n600.n2 a_n852_n600.t2 0.1643
R333 a_n852_n600.n7 a_n852_n600.t5 0.137
R334 a_n852_n600.t6 a_n852_n600.n7 0.137
R335 a_n852_n600.n6 a_n852_n600.n0 0.0924286
R336 a_n852_8800.n3 a_n852_8800.n1 10.7042
R337 a_n852_8800.n3 a_n852_8800.n2 10.7042
R338 a_n852_8800.n0 a_n852_8800.t7 6.77
R339 a_n852_8800.n5 a_n852_8800.t4 6.6753
R340 a_n852_8800.n7 a_n852_8800.n6 6.5388
R341 a_n852_8800.n5 a_n852_8800.n4 4.63668
R342 a_n852_8800.n4 a_n852_8800.n0 2.23814
R343 a_n852_8800.n4 a_n852_8800.n3 0.5055
R344 a_n852_8800.n6 a_n852_8800.n5 0.189974
R345 a_n852_8800.n1 a_n852_8800.t3 0.1643
R346 a_n852_8800.n1 a_n852_8800.t1 0.1643
R347 a_n852_8800.n2 a_n852_8800.t0 0.1643
R348 a_n852_8800.n2 a_n852_8800.t2 0.1643
R349 a_n852_8800.n7 a_n852_8800.t5 0.137
R350 a_n852_8800.t6 a_n852_8800.n7 0.137
R351 a_n852_8800.n6 a_n852_8800.n0 0.0924286
R352 a_600_2738.n0 a_600_2738.t4 139.689
R353 a_600_2738.n0 a_600_2738.t3 139.689
R354 a_600_2738.n1 a_600_2738.n0 37.2961
R355 a_600_2738.n1 a_600_2738.t0 12.587
R356 a_600_2738.n2 a_600_2738.t1 6.0613
R357 a_600_2738.t2 a_600_2738.n2 6.0613
R358 a_600_2738.n2 a_600_2738.n1 2.78832
R359 a_n1000_2738.n0 a_n1000_2738.t4 139.689
R360 a_n1000_2738.n0 a_n1000_2738.t3 139.689
R361 a_n1000_2738.n1 a_n1000_2738.n0 37.2961
R362 a_n1000_2738.n1 a_n1000_2738.t0 12.587
R363 a_n1000_2738.n2 a_n1000_2738.t1 6.0613
R364 a_n1000_2738.t2 a_n1000_2738.n2 6.0613
R365 a_n1000_2738.n2 a_n1000_2738.n1 2.78832
C0 OUT_N VDD 0.11826f
C1 VDD VBIAS 0.21173f
C2 VBIAS IN_N 0.11346f
C3 VDD OUT_P 0.05739f
C4 OUT_N OUT_P 0.17997f
C5 IN_N IN_P 0.27707f
C6 VBIAS IN_P 0.11346f
C7 IN_N VSS 2.18982f
C8 IN_P VSS 2.18982f
C9 VBIAS VSS 6.02506f
C10 OUT_N VSS 3.00516f
C11 OUT_P VSS 2.9833f
C12 VDD VSS 9.73809f
C13 a_n1000_2738.t1 VSS 0.43483f
C14 a_n1000_2738.t0 VSS 0.11329f
C15 a_n1000_2738.n0 VSS 0.61958f
C16 a_n1000_2738.n1 VSS 1.99474f
C17 a_n1000_2738.n2 VSS 0.20684f
C18 a_n1000_2738.t2 VSS 0.43483f
C19 a_600_2738.t1 VSS 0.48035f
C20 a_600_2738.t0 VSS 0.12675f
C21 a_600_2738.n0 VSS 0.69319f
C22 a_600_2738.n1 VSS 2.23176f
C23 a_600_2738.n2 VSS 0.23141f
C24 a_600_2738.t2 VSS 0.48035f
C25 a_n852_8800.t5 VSS 0.18586f
C26 a_n852_8800.t7 VSS 0.72456f
C27 a_n852_8800.n0 VSS 0.12486f
C28 a_n852_8800.t1 VSS 0.18662f
C29 a_n852_8800.t3 VSS 0.18662f
C30 a_n852_8800.n1 VSS 0.46079f
C31 a_n852_8800.t2 VSS 0.17882f
C32 a_n852_8800.t0 VSS 0.17882f
C33 a_n852_8800.n2 VSS 0.46079f
C34 a_n852_8800.n3 VSS 0.96508f
C35 a_n852_8800.n4 VSS 0.42634f
C36 a_n852_8800.t4 VSS 0.72278f
C37 a_n852_8800.n5 VSS 0.12663f
C38 a_n852_8800.n6 VSS 0.14136f
C39 a_n852_8800.n7 VSS 0.4953f
C40 a_n852_8800.t6 VSS 0.18586f
C41 a_n852_n600.t5 VSS 0.20017f
C42 a_n852_n600.t7 VSS 0.79554f
C43 a_n852_n600.n0 VSS 0.13801f
C44 a_n852_n600.t1 VSS 0.17682f
C45 a_n852_n600.t0 VSS 0.17682f
C46 a_n852_n600.n1 VSS 0.50933f
C47 a_n852_n600.t2 VSS 0.17682f
C48 a_n852_n600.t3 VSS 0.17682f
C49 a_n852_n600.n2 VSS 0.50933f
C50 a_n852_n600.n3 VSS 1.06674f
C51 a_n852_n600.n4 VSS 0.47125f
C52 a_n852_n600.t4 VSS 0.79358f
C53 a_n852_n600.n5 VSS 0.13996f
C54 a_n852_n600.n6 VSS 0.15625f
C55 a_n852_n600.n7 VSS 0.54747f
C56 a_n852_n600.t6 VSS 0.20017f
C57 VSS.t12 VSS 0.05065f
C58 VSS.t14 VSS 0.05006f
C59 VSS.t10 VSS 0.05006f
C60 VSS.t8 VSS 0.05065f
C61 VSS.t17 VSS 0.05065f
C62 VSS.t15 VSS 0.05006f
C63 VSS.t16 VSS 0.05006f
C64 VSS.t7 VSS 0.05065f
C65 VDD.t2 VSS 0.0596f
C66 VDD.t1 VSS 0.05678f
C67 VDD.n0 VSS 0.60873f
C68 VDD.t0 VSS 0.0596f
C69 VDD.t3 VSS 0.05678f
C70 VDD.n1 VSS 0.29921f
C71 OUT_P.t1 VSS 0.16544f
C72 OUT_P.t0 VSS 0.61571f
C73 OUT_P.t2 VSS 0.61571f
C74 OUT_P.n0 VSS 0.28214f
C75 OUT_N.t2 VSS 0.16961f
C76 OUT_N.t1 VSS 0.63737f
C77 OUT_N.t0 VSS 0.63737f
C78 OUT_N.n0 VSS 0.28925f
C79 VBIAS.n0 VSS 0.04303f
C80 VBIAS.n1 VSS 0.04572f
C81 VBIAS.n2 VSS 0.04572f
C82 VBIAS.n3 VSS 0.04303f
C83 VBIAS.n4 VSS 0.32444f
C84 VBIAS.n5 VSS 0.04303f
C85 VBIAS.n6 VSS 0.04572f
C86 VBIAS.n7 VSS 0.04572f
C87 VBIAS.n8 VSS 0.04303f
C88 VBIAS.n9 VSS 0.11441f
C89 VBIAS.n10 VSS 1.25078f
C90 IN_P.n0 VSS 0.17322f
C91 IN_N.n0 VSS 0.17322f
.ends

